US08389508B2
To a solution of 2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazole (D70) (1.5 g) and sodium acetate (0.970 g) in acetic acid (10 mL) stirred at room temperature was added a solution of Br2 (0.31 ml) in acetic acid (1 mL) dropwise during 30 min. The reaction mixture was stirred at 20° C. until start material was consumed completely. The reaction mixture was basified with 2M NaOH. The resulting solution was diluted with ethyl acetate. The mixture was washed with brine. The organic phase was dried over anhydrous sodium sulphate and evaporated in vacuo. The crude product was purified by column chromatography to give 5-bromo-2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazole (D71) (1.2 g). MS (ES): C12H11BrClNOS requires 332. found 333.0 (M+H+).

reactant | 2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazole | 1.5 g | ClC=1C=C(C=CC1OC(C)C)C=1SC=CN1 | C12H12ClNOS
reactant | sodium acetate | 0.970 g | C(C)(=O)[O-].[Na+]
reactant | Br2 | 0.31 ml | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazole | 1.2 g | BrC1=CN=C(S1)C1=CC(=C(C=C1)OC(C)C)Cl | C12H11BrClNOS
